US07795297B2
5-(5-Chloro-2-nitrophenyl)-4-pentynoic acid methyl ester
35.5 g (125 mM) of 4-chloro-2-iodo-1-nitrobenzene, 510 ml of triethylamine, 2.88 g (2.5 mM) of tetrakis(triphenylphosphine)palladium, 0.72 g of cuprous iodide and 50 ml of dimethylformamide (DMF) are mixed. 14 g (125 mM) of the methyl ester of 4-pentynoic acid are then added at room temperature, with stirring, and the reaction mixture is stirred for 24 hours at room temperature. 100 ml of toluene are added and the solvents are driven off under reduced pressure. The evaporation residue is taken up with 150 ml of ethyl acetate and 80 ml of N hydrochloric acid. The organic phase is separated off, washed with water and then dried over magnesium sulfate and concentrated under reduced pressure. The brown oil obtained is purified by chromatography on silica gel using a cyclohexane/ethyl acetate mixture (9/1; v/v) as the eluent to give 21.5 g of the expected product in the form of a yellow solid (yield=65%).

reactant | 4-chloro-2-iodo-1-nitrobenzene | 125 mM, 35.5 g | ClC1=CC(=C(C=C1)[N+](=O)[O-])I | C6H3ClINO2
reactant | triethylamine | 510 ml | C(C)N(CC)CC | C6H15N
reactant | 4-pentynoic acid | C(CCC#C)(=O)O | C5H6O2
reactant | hydrochloric acid | Cl | ClH
catalyst | tetrakis(triphenylphosphine)palladium | 2.5 mM, 2.88 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 5-(5-Chloro-2-nitrophenyl)-4-pentynoic acid methyl ester | 21.5 g | COC(CCC#CC1=C(C=CC(=C1)Cl)[N+](=O)[O-])=O | C12H10ClNO4
